US07820704B2
[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amine, chlorosulfonyl-acetic acid tert-butyl ester were combined according to general procedure C (method 2) to provide {[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-sulfamoyl}-acetic acid tert-butyl ester. LCMS m/z: 494 (M+1)+.

reactant | [4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amine | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)NCC=1SC=CC1 | C17H18N2S2
reactant | chlorosulfonyl-acetic acid tert-butyl ester | C(C)(C)(C)OC(CS(=O)(=O)Cl)=O | C6H11ClO4S
product | {[4-(4-isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-sulfamoyl}-acetic acid tert-butyl ester | C(C)(C)(C)OC(CS(N(CC=1SC=CC1)C=1SC=C(N1)C1=CC=C(C=C1)C(C)C)(=O)=O)=O | C23H28N2O4S3
